US03984465
2-Cyclopentyl-2-methyl-5-methylthio-6,7-dichloro-1-indanone is prepared following substantially the same procedure described in Example 10, Step D, using the following substances: 2-cyclopentyl-5-methylthio-6,7-dichloro-1-indanone (7.9 g., 0.025 mole), 1,2-dimethoxyethane (200 ml.), sodium hydride (660 mg., 0.0275 mole) and methyl iodide (7.5 ml.).

reactant | 2-cyclopentyl-5-methylthio-6,7-dichloro-1-indanone | 0.025 mole, 7.9 g | C1(CCCC1)C1C(C2=C(C(=C(C=C2C1)SC)Cl)Cl)=O | C15H16Cl2OS
reactant | sodium hydride | 0.0275 mole, 660 mg | [H-].[Na+]
reactant | methyl iodide | 7.5 ml | CI | CH3I
solvent | 1,2-dimethoxyethane | 200 ml | COCCOC | C4H10O2
product | 2-Cyclopentyl-2-methyl-5-methylthio-6,7-dichloro-1-indanone | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)SC)Cl)Cl)=O)C | C16H18Cl2OS
